* File: G1_INV1_N1.pex.netlist.pex
* Created: Thu Feb 10 22:02:06 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G1_INV1_N1_VDD 1 4 13 24 Vss
c10 24 Vss 0.0146425f
c11 13 Vss 0.0342996f
c12 12 Vss 0.109003f
c13 4 Vss 0.165704f
r14 15 24 9.5694
r15 13 15 1.4004
r16 12 16 0.652036
r17 12 15 1.5171
r18 9 13 0.652036
r19 4 16 2.5674
r20 4 9 2.5674
r21 1 24 0.04668
.ends

.subckt PM_G1_INV1_N1_A 2 4 9 12 22 Vss
c4 12 Vss 0.226783f
c5 9 Vss 0.0882623f
c6 7 Vss 0.0374314f
c7 4 Vss 0.085775f
r8 12 16 0.652036
r9 9 22 0.0530455
r10 9 13 0.326018
r11 9 12 6.7686
r12 9 13 0.1167
r13 7 9 0.326018
r14 7 9 0.40845
r15 4 16 2.5674
r16 2 9 2.15895
.ends

.subckt PM_G1_INV1_N1_VSS 3 5 12 13 15 37 39 Vss
c11 37 Vss 0.0072485f
c12 15 Vss 4.90129e-19
c13 13 Vss 0.0350688f
c14 12 Vss 0.103746f
c15 5 Vss 0.00138463f
c16 3 Vss 0.162979f
r17 37 39 0.184263
r18 35 37 12.7142
r19 15 35 1.16709
r20 13 15 1.45875
r21 12 16 0.652036
r22 12 15 1.45875
r23 9 13 0.652036
r24 5 37 1.16709
r25 3 16 2.5674
r26 3 9 2.5674
.ends

.subckt PM_G1_INV1_N1_Z 1 8 Vss
c3 8 Vss 0.00111975f
r4 1 8 0.125036
.ends

