* File: G1_INV1_N1.pex.netlist.pex
* Created: Wed Feb 16 13:25:40 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G1_INV1_N1_VDD 2 5 15 29 37 Vss
c16 37 Vss 0.00546237f
c17 29 Vss 0.0114868f
c18 15 Vss 0.0347773f
c19 14 Vss 0.101914f
c20 5 Vss 0.162879f
c21 2 Vss 0.00207958f
r22 31 37 1.16709
r23 29 31 9.5694
r24 27 29 0.04668
r25 17 37 0.214393
r26 15 17 1.4004
r27 14 18 0.652036
r28 14 17 1.5171
r29 11 15 0.652036
r30 5 18 2.5674
r31 5 11 2.5674
r32 2 27 1.16709
.ends

.subckt PM_G1_INV1_N1_A 2 4 9 12 15 22 25 28 Vss
c10 28 Vss 0.00708077f
c11 25 Vss 7.79895e-19
c12 15 Vss 1.88753e-19
c13 12 Vss 0.227852f
c14 9 Vss 0.0715834f
c15 7 Vss 0.0247918f
c16 4 Vss 0.0847975f
r17 25 28 1.16709
r18 22 25 0.0530455
r19 15 28 0.0476429
r20 13 15 0.326018
r21 13 15 0.1167
r22 12 16 0.652036
r23 12 15 6.7686
r24 9 28 0.357321
r25 7 15 0.326018
r26 7 9 0.40845
r27 4 16 2.5674
r28 2 9 2.15895
.ends

.subckt PM_G1_INV1_N1_VSS 3 6 14 15 27 32 37 51 Vss
c22 37 Vss 0.00278029f
c23 32 Vss 0.00711836f
c24 27 Vss 1.88753e-19
c25 15 Vss 0.03507f
c26 14 Vss 0.0994209f
c27 6 Vss 0.00276734f
c28 3 Vss 0.159829f
r29 37 40 0.3
r30 32 51 0.184263
r31 27 40 1.16709
r32 27 32 12.7142
r33 17 37 0.357321
r34 15 17 1.45875
r35 14 18 0.652036
r36 14 17 1.45875
r37 11 15 0.652036
r38 6 32 1.16709
r39 3 18 2.5674
r40 3 11 2.5674
.ends

.subckt PM_G1_INV1_N1_Z 2 16 Vss
c8 2 Vss 0.00148239f
r9 16 19 0.125036
r10 2 19 1.16709
.ends

