************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G2_No_Connection_N1
* View Name:     schematic
* Netlisted on:  Oct 29 13:48:51 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G2_No_Connection_N1
* View Name:    schematic
************************************************************************

.SUBCKT G2_No_Connection_N1 cg1 cg2 cg3 cg4 g1 g2 g3 g4 n1 n2 n3 n4 n5 n6
*.PININFO cg1:I cg2:I cg3:I cg4:I g1:I g2:I g3:I g4:I n1:I n2:I n3:I n4:I n5:I 
*.PININFO n6:I
XI3 cg4 n4 g4 g4 n5 / TIGFET_PCELL_SP15CP15_N1
XI2 cg2 n3 g2 g2 n2 / TIGFET_PCELL_SP15CP15_N1
XI1 cg3 n6 g3 g3 n5 / TIGFET_PCELL_SP15CP15_N1
XI0 cg1 n1 g1 g1 n2 / TIGFET_PCELL_SP15CP15_N1
.ENDS

